US08003785B2
To a mixture of 0.070 g (0.161 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-benzoic acid (I-182) and 4 mL of dimethylformamide was added 0.0346 g (0.256 mmole) of 1-hydroxybenzotriazole, 0.0950 g (0.250 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 0.1253 g (0.936 mmole) of diisopropylethylamine. The mixture was stirred for 10 minutes, then 0.0246 g (0.242 mmole) of 3-(dimethylamino)-propylamine was added. The reaction mixture was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 80 mL of ethyl acetate and washed three times with 10 mL of 1M sodium hydroxide, twice with 15 mL of brine, dried, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.052 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-fluoro-benzamide (I-227) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-fluoro-benzoic acid | 0.161 mmole, 0.070 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)F | C20H20F3N5O3
reactant | 1-hydroxybenzotriazole | 0.256 mmole, 0.0346 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.250 mmole, 0.0950 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.936 mmole, 0.1253 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(dimethylamino)-propylamine | 0.242 mmole, 0.0246 g | CN(CCCN)C | C5H14N2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-fluoro-benzamide | 0.052 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NCCCN(C)C)C=C2)F | C25H32F3N7O2
